US05616599
5-Cyano-4-(1-hydroxy-1-methylpropyl)-2-propyl-1-tritylimidazole
Following the procedure described in Preparation 17, but using 5.00 g of 5-cyano-4-propionyl-2-propyl-1-tritylimidazole (prepared as described in Preparation 16) and 12.5 ml of a 1M solution of methylmagnesium bromide in tetrahydrofuran, 3.32 g of the title compound were obtained as a crystalline powder, melting at above 120° C. (softening at 110° C.).

reactant | 5-cyano-4-propionyl-2-propyl-1-tritylimidazole | 5.00 g | C(#N)C1=C(N=C(N1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC)C(CC)=O | C29H27N3O
reactant | methylmagnesium bromide | C[Mg]Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-Cyano-4-(1-hydroxy-1-methylpropyl)-2-propyl-1-tritylimidazole | 3.32 g | C(#N)C1=C(N=C(N1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC)C(CC)(C)O | C30H31N3O
